US08975254B2
c) 2-(3-(Isoquinolin-5-yl)-1H-pyrazol-1-yl)ethanamine
To 0.50 g of 8-nitro-5-(1H-pyrazol-5-yl)isoquinoline was added 5 ml of dry DMF and the mixture was stirred at RT for 30 min. To this was added 0.65 g of 2-(tert-butoxycarbonylamino)ethyl methanesulfonate diluted to 1.5 ml of dry DMF and the mixture was microwaved for 30 min at 160° C. After pouring the mixture to water, it was extracted with EtOAc. Combined organic phases were washed with water and brine, dried with Na2SO4 and evaporated. Crude product was purified by CombiFlash (5% MeOH in DCM). Product fractions were combined and evaporated to give 0.59 g of Boc-protected product. For Boc deprotection 8 ml of 10% HCl/EtOH solution was added to the evaporation residue, stirred at RT until disappearance of starting material by TLC. 3 ml of diethylether was added to the mixture and the precipitate was filtered, washed with diethylether and dried to give 0.30 g of the product as HCl-salt. 1H-NMR (400 MHz; d6-DMSO): δ 1.57 (br s, 2H), 3.04 (t, 2H), 4.25 (t, 2H), 6.90 (d, 1H), 8.00 (d, 1H), 8.17 (d, 1H), 8.47 (d, 1H), 8.75 (d, 1H), 8.91 (d, 1H), 9.83 (s, 1H).

reactant | 8-nitro-5-(1H-pyrazol-5-yl)isoquinoline | 0.50 g | [N+](=O)([O-])C=1C=CC(=C2C=CN=CC12)C1=CC=NN1 | C12H8N4O2
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
reactant | 2-(tert-butoxycarbonylamino)ethyl methanesulfonate | 0.65 g | CS(=O)(=O)OCCNC(=O)OC(C)(C)C | C8H17NO5S
reactant | DMF | 1.5 ml | CN(C)C=O | C3H7NO
reactant | HCl EtOH | Cl.CCO
solvent | diethylether | 3 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 2-(3-(Isoquinolin-5-yl)-1H-pyrazol-1-yl)ethanamine | 0.30 g | C1=NC=CC2=C(C=CC=C12)C1=NN(C=C1)CCN | C14H14N4
